US07884210B2
{2-[3-(4-Methyl-cyclohexyl)-3-(3-phenyl-propyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid using 3-phenylpropionaldehyde, trans-4-methyl-cyclohexylamine and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | 3-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | trans-4-methyl-cyclohexylamine | C[C@@H]1CC[C@H](CC1)N | C7H15N
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(4-Methyl-cyclohexyl)-3-(3-phenyl-propyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | CC1CCC(CC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCCC1=CC=CC=C1 | C22H29N3O3S2
